US20010052156A1
1.3.1. Preparation of N, N-Dimethyl-3-Amino-4-Nitroaniline
20.3 g (0.091 mole) of N,N-dimethyl-4-nitro-3-acetaminoaniline (from step a) were introduced into a mixture of 75 ml of water and 21 ml of methanol, followed by refluxing for 1 hour with 20.7 ml of concentrated hydrochloric acid. On completion of the reaction, the mixture was adjusted to pH 7 with aqueous ammonia and the product was precipitated by stirring, filtered off under suction and washed with water.

reactant | N,N-dimethyl-4-nitro-3-acetaminoaniline | 0.091 mole, 20.3 g | CN(C1=CC(=C(C=C1)[N+](=O)[O-])NC(=O)C)C | C10H13N3O3
reactant | water | 75 ml | O | H2O
reactant | hydrochloric acid | 20.7 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | methanol | 21 ml | CO | CH4O
product | N, N-Dimethyl-3-Amino-4-Nitroaniline | CN(C1=CC(=C(C=C1)[N+](=O)[O-])N)C | C8H11N3O2
